US07442708B2
N-[3-(3-Methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]acetamide
1.20 ml (12.60 mmol) of acetic anhydride are added to 410 mg (1.26 mmol) of (1-amino-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone dissolved in 10 ml of dichloromethane.

reactant | acetic anhydride | 12.60 mmol, 1.20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | (1-amino-2-methylindolizin-3-yl)(3-methoxy-4-nitrophenyl)methanone | 1.26 mmol, 410 mg | NC=1C(=C(N2C=CC=CC12)C(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC)C | C17H15N3O4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-[3-(3-Methoxy-4-nitrobenzoyl)-2-methylindolizin-1-yl]acetamide | COC=1C=C(C(=O)C2=C(C(=C3C=CC=CN23)NC(C)=O)C)C=CC1[N+](=O)[O-] | C19H17N3O5
